US08754079B2
II.2. 3-(tert-Butyl-dimethyl-silanyloxy)-cyclohexanol
A mixture of 37.6 g (3-benzyloxy-phenoxy)-tert-butyl-dimethyl-silane and 3.8 g of Nishimura's catalyst in 200 ml of ethanol was hydrogenated at rt under 50 psi for 6 hours. The reaction mixture was filtered and the filtrate concentrated.

reactant | (3-benzyloxy-phenoxy)-tert-butyl-dimethyl-silane | 37.6 g | C(C1=CC=CC=C1)OC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1 | C19H26O2Si
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(tert-Butyl-dimethyl-silanyloxy)-cyclohexanol | C(C)(C)(C)[Si](OC1CC(CCC1)O)(C)C | C12H26O2Si
